US04931581
Preparation of benzo-1,2,3-thiadiazole-7-carboxylic acid hydrazide
9.7 g of 7-methoxycarbonylbenzo-1,2,3-thiadiazole are reacted for 19 hours with 4.8 g of hydrazine hydrate in 30 ml of water at 50° C. and then for a further 6 hours at 80°-90° C. The suspension is cooled slightly, filtered while hot and washed with water to give 8.8 of white crystals having a melting point of 270°-272° C.

reactant | 7-methoxycarbonylbenzo-1,2,3-thiadiazole | 9.7 g | COC(=O)C1=CC=CC=2N=NSC21 | C8H6N2O2S
reactant | hydrazine hydrate | 4.8 g | O.NN
solvent | water | 30 ml | O | H2O
product | benzo-1,2,3-thiadiazole-7-carboxylic acid hydrazide | S1N=NC2=C1C(=CC=C2)C(=O)NN | C7H6N4OS
